Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
CC(C)(C)OC(=O)[NH:1][CH:2]([C:3]([N:4]([CH:5]([CH:6]([CH3:7])[CH3:8])[C:9](=[O:10])[NH:11][CH:12]([CH2:13][c:14]1[cH:15][cH:16][c:17]([OH:18])[c:19]([C:20]([CH3:22])([CH3:21])[CH3:23])[cH:24]1)[c:25]1[n:26][cH:27][n:28][o:29]1)[CH3:30])=[O:31])[CH2:32][c:33]1[cH:34][cH:35][c:36]([F:37])[cH:38][cH:39]1>>[NH2:1][CH:2]([C:3]([N:4]([CH:5]([CH:6]([CH3:7])[CH3:8])[C:9](=[O:10])[NH:11][CH:12]([CH2:13][c:14]1[cH:15][cH:16][c:17]([OH:18])[c:19]([C:20]([CH3:21])([CH3:22])[CH3:23])[cH:24]1)[c:25]1[n:26][cH:27][n:28][o:29]1)[CH3:30])=[O:31])[CH2:32][c:33]1[cH:34][cH:35][c:36]([F:37])[cH:38][cH:39]1,[CH3:202][C:203]([CH3:204])([CH3:205])[O:206][C:101](=[O:201])[NH:1][CH:2]([C:3]([N:4]([CH:5]([CH:6]([CH3:7])[CH3:8])[C:9](=[O:10])[NH:11][CH:12]([CH2:13][c:14]1[cH:15][cH:16][c:17]([OH:18])[c:19]([C:20]([CH3:21])([CH3:22])[CH3:23])[cH:24]1)[c:25]1[n:26][cH:27][n:28][o:29]1)[CH3:30])=[O:31])[CH2:32][c:33]1[cH:34][cH:35][c:36]([F:37])[cH:38][cH:39]1.[H+:301]>>[NH2:1][CH:2]([C:3]([N:4]([CH:5]([CH:6]([CH3:7])[CH3:8])[C:9](=[O:10])[NH:11][CH:12]([CH2:13][c:14]1[cH:15][cH:16][c:17]([OH:18])[c:19]([C:20]([CH3:21])([CH3:22])[CH3:23])[cH:24]1)[c:25]1[n:26][cH:27][n:28][o:29]1)[CH3:30])=[O:31])[CH2:32][c:33]1[cH:34][cH:35][c:36]([F:37])[cH:38][cH:39]1,Boc_deprotection,"[(201, 301), ([203, 206], [206, 101]), ([101, 201], 201), (1, 201.1), ([201.1, 201], 201), (201, [201, 101]), ([101, 1], 1), ([202.1, 202], [202, 203])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[OH:4][CH3:1].[O:2]=[C:3](O)[c:5]1[cH:6][cH:7][c:8]([Cl:9])[cH:10][c:11]1[O:12][c:13]1[cH:14][cH:15][cH:16][c:17]([C:18]([F:19])([F:20])[F:21])[cH:22]1>>[CH3:1][O:4][C:3](=[O:2])[c:5]1[cH:6][cH:7][c:8]([Cl:9])[cH:10][c:11]1[O:12][c:13]1[cH:14][cH:15][cH:16][c:17]([C:18]([F:19])([F:20])[F:21])[cH:22]1,[OH:101][C:3](=[O:2])[c:5]1[cH:6][cH:7][c:8]([Cl:9])[cH:10][c:11]1[O:12][c:13]1[cH:14][cH:15][cH:16][c:17]([C:18]([F:19])([F:20])[F:21])[cH:22]1.[CH3:1][OH:4].[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[CH3:1][O:4][C:3](=[O:2])[c:5]1[cH:6][cH:7][c:8]([Cl:9])[cH:10][c:11]1[O:12][c:13]1[cH:14][cH:15][cH:16][c:17]([C:18]([F:19])([F:20])[F:21])[cH:22]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (4, 3), ([3, 2], 2), (303, 4.1), ([4.1, 4], 4), (2, [2, 3]), ([3, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[C:1]([O:2][C:3](=[CH2:4])[CH3:5])=[O:6].[CH3:7][C:8]([CH3:9])([CH3:10])[c:11]1[cH:12][c:13]([NH2:14])[n:15](-[c:16]2[cH:17][cH:18][c:19]3[n:20][cH:21][cH:22][cH:23][c:24]3[cH:25]2)[n:26]1>>[C:1]([O:2][C:3](=[CH2:4])[CH3:5])(=[O:6])[NH:14][c:13]1[cH:12][c:11]([C:8]([CH3:7])([CH3:9])[CH3:10])[n:26][n:15]1-[c:16]1[cH:17][cH:18][c:19]2[n:20][cH:21][cH:22][cH:23][c:24]2[cH:25]1,[CH3:7][C:8]([CH3:9])([CH3:10])[c:11]1[cH:12][c:13]([NH2:14])[n:15](-[c:16]2[cH:17][cH:18][c:19]3[n:20][cH:21][cH:22][cH:23][c:24]3[cH:25]2)[n:26]1.[Cl:101][C:1]([O:2][C:3](=[CH2:4])[CH3:5])=[O:6]>>[C:1]([O:2][C:3](=[CH2:4])[CH3:5])(=[O:6])[NH:14][c:13]1[cH:12][c:11]([C:8]([CH3:7])([CH3:9])[CH3:10])[n:26][n:15]1-[c:16]1[cH:17][cH:18][c:19]2[n:20][cH:21][cH:22][cH:23][c:24]2[cH:25]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(14, 1), ([1, 6], 6), (6, [6, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
